US07763622B2
Preparation of 5-chloro-6-(2,3,5-trifluorophenyl)-7-isopropylamino-[1,2,4]-triazolo[1,5-a]pyrimidine [I-2]
A mixture of isopropylamine (1.5 mmol), triethylamine (1.5 mmol) and dichloromethane (10 ml) was added to a mixture of 5,7-dichloro-6-(2,3,5-trifluorophenyl)-[1,2,4]-triazolo[1,5-a]pyrimidine (1.5 mmol, obtained from Ex. 3) and dichloromethane (20 ml) under stirring. The reaction mixture was stirred for 16 h. at 20 to 25° C. and washed with 5% hydrochloric acid. The organic layer was separated, dried and filtered. The filtrate was evaporated and the residue was purified by column chromatography to yield 0.42 g of the title compound of mp. 151° C.

reactant | isopropylamine | 1.5 mmol | C(C)(C)N | C3H9N
reactant | triethylamine | 1.5 mmol | C(C)N(CC)CC | C6H15N
reactant | 5,7-dichloro-6-(2,3,5-trifluorophenyl)-[1,2,4]-triazolo[1,5-a]pyrimidine | 1.5 mmol | ClC1=NC=2N(C(=C1C1=C(C(=CC(=C1)F)F)F)Cl)N=CN2 | C11H3Cl2F3N4
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-chloro-6-(2,3,5-trifluorophenyl)-7-isopropylamino-[1,2,4]-triazolo[1,5-a]pyrimidine | 0.42 g | ClC1=NC=2N(C(=C1C1=C(C(=CC(=C1)F)F)F)NC(C)C)N=CN2 | C14H11ClF3N5
